US09029538B2
4-(4-Fluoro-phenyl)-2-isopropyl-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-2-methoxy-phenyl]-amide.
This compound was synthesized using 4-(6,7-dimethoxyquinolin-4-yloxy)-2-methoxy-phenylamine and 4-(4-Fluorophenyl)-2-isopropyl-3,5-dioxo-2,3,4,5-tetrahydro[1,2,4]triazine-6-carboxylic acid using the procedure for example 1. mp=216-218° C.; LCMS m/z=602 (M+1); 1H NMR (CDCl3) δ: 11.02 (s, 1H), 8.66 (d, 1H, J=8.5 Hz), 8.50 (d, 1H, J=5 Hz), 7.54 (s, 1H), 7.43 (s, 1H), 7.30-7.27 (m, 3H), 6.83 (dd, 1H, J=3.5, 10 Hz), 6.75 (d, 1H, J=2.5 Hz), 6.53 (d, 1H, J=5 Hz), 5.09 (m, 1H), 4.05 (s, 6H), 3.86 (s, 3H), 1.53 (d, 6H, J=6.5 Hz)

reactant | 4-(6,7-dimethoxyquinolin-4-yloxy)-2-methoxy-phenylamine | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)N)OC | C18H18N2O4
reactant | 4-(4-Fluorophenyl)-2-isopropyl-3,5-dioxo-2,3,4,5-tetrahydro[1,2,4]triazine-6-carboxylic acid | FC1=CC=C(C=C1)N1C(N(N=C(C1=O)C(=O)O)C(C)C)=O | C13H12FN3O4
product | 4-(4-Fluoro-phenyl)-2-isopropyl-3,5-dioxo-2,3,4,5-tetrahydro-1,2,4-triazine-6-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-2-methoxy-phenyl]-amide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)C=1C(N(C(N(N1)C(C)C)=O)C1=CC=C(C=C1)F)=O)OC | C31H28FN5O7
